US04232032
A mixture of 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxaldehyde (1.0 g.) and phenylhydrazine (0.27 g.) in chloroform (35 ml.) was heated under gentle reflux for 1 hour. The resulting solution was cooled and evaporated to dryness under reduced pressure, and the residue was crystallised from ethanol to give 6-phenylhydrazonomethyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin, m.p. 203°-204° C.

reactant | 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxaldehyde | 1.0 g | ClC(C1OC2=C(C(O1)C(Cl)(Cl)Cl)C=C(C=C2)C=O)(Cl)Cl | C11H6Cl6O3
reactant | phenylhydrazine | 0.27 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-phenylhydrazonomethyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin | C1(=CC=CC=C1)NN=CC=1C=CC2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1 | C17H12Cl6N2O2
